US08957062B2
Step A: tert-butyl 4-((1R,2S)-2-{2-[4-(methylsulfonyl)phenoxy]ethyl}cyclopropyl)piperidine-1-carboxylate
4-(methylsulfonyl)phenol (17 mg, 0.1 mmol), tert-butyl 4-[(1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate (27 mg, 0.1 mmol), and triphenylphosphine (70 mg, 0.21 mmol) were dissolved in tetrahydrofuran (1 mL) under an atmosphere of nitrogen and cooled at 0° C. DIAD (32 mg, 0.14 mmol) was added and the resulting mixture was warmed to RT and stirred overnight. The mixture was diluted with ethyl acetate (10 mL) and water (5 mL), and the layers were separated. The organic layer was washed with brine (2×10 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by MS directed HPLC (30 minute, standard gradient 0-90% acetonitrile/water 0.1% formic acid buffer) and the fractions containing product combined. The solution was concentrated to dryness via GenoVac to afford the title compound. LC/MS (m/z): 424 (M+H)+. GPR119 Human EC50: 0.9 nM

reactant | 4-(methylsulfonyl)phenol | 0.1 mmol, 17 mg | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | tert-butyl 4-[(1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate | 0.1 mmol, 27 mg | OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OC(C)(C)C | C15H27NO3
reactant | triphenylphosphine | 0.21 mmol, 70 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.14 mmol, 32 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 5 mL | O | H2O
product | tert-butyl 4-((1R,2S)-2-{2-[4-(methylsulfonyl)phenoxy]ethyl}cyclopropyl)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(OCC[C@H]2[C@H](C2)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C22H33NO5S
